US07169761B2
A 1 M aqueous solution of sodium hydroxide (12 ml) was added dropwise to a solution of methyl 2-[3-[(1S)-1,5-anhydro-D-glucitol-1-yl]-4-methoxy-1-naphthyl]methylazulene-1-carboxylate (0.23 g) in methanol (8.0 ml) and the mixture was refluxed with heating for three hours. A 1 M aqueous solution of hydrochloric acid (12 ml) was added to the reaction mixture under cooling with ice and the solvent was evaporated. The resulting residue was suspended in acetonitrile (15 ml). A 4 M 1,4-dioxane solution of hydrochloric acid (0.4 ml) was added dropwise to the suspension and the mixture was refluxed with heating for 15 minutes. The insoluble matter was removed by filtration and the solvent was evaporated. The resulting residue was purified by silica gel column chromatography and reverse phase column chromatography in that order to obtain (1S)-1,5-anhydro-1-[4-(azulen-2-ylmethyl)-1-methoxy-2-naphthyl]-D-glucitol (0.08 g).

reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
reactant | methyl 2-[3-[(1S)-1,5-anhydro-D-glucitol-1-yl]-4-methoxy-1-naphthyl]methylazulene-1-carboxylate | 0.23 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C=1C=C(C2=CC=CC=C2C1OC)CC1=C(C2=CC=CC=CC2=C1)C(=O)OC | C30H30O8
reactant | hydrochloric acid | 12 ml | Cl | ClH
solvent | methanol | 8.0 ml | CO | CH4O
product | (1S)-1,5-anhydro-1-[4-(azulen-2-ylmethyl)-1-methoxy-2-naphthyl]-D-glucitol | 0.08 g | C1=C(C=C2C=CC=CC=C12)CC1=CC(=C(C2=CC=CC=C12)OC)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C28H28O6
